US09421514B2
(a) Dimethyl 3,3′-(naphthalene-2,7-diyl)dibenzoate
To a 250 mL Schlenk flask, 2,7-dibromonaphthalene (2.00 g, 6.99 mmol), 3-(methoxycarbonyl)phenylboronic acid (3.15 g, 17.48 mmol), CsF (4.00 g) and Pd(PPh3)4 (200 mg) were added. The flask was connected to a Schlenk line and evacuated of air then refilled with nitrogen. 150 mL of 1,2-dimethoxyethane (DME) was degassed (two hours) and added to the flask through a canula. The flask was equipped with a water condenser and refluxed under nitrogen for 2 days. The solvent was removed on a rotary evaporator. 100 mL of H2O was added and then extracted with CHCl3. The organic phase was dried with MgSO4. After removal of the CHCl3 solvent, the crude product was re-crystallized from the mixture solvent of ethyl acetate and hexane (v/v=1:9) to give a pure product with a yield of 72% (2.0 g) based on 2,7-dibromonaphthalene. 1H NMR (300 MHz, DMSO-d6): δ 3.92 (s, 6H), 7.70 (t, 2H), 7.93 (d, 2H), 8.01 (d, 2H), 8.13 (m, 4H), 8.39 (m, 2H), 8.45 (d, 2H).

reactant | 2,7-dibromonaphthalene | 6.99 mmol, 2.00 g | BrC1=CC2=CC(=CC=C2C=C1)Br | C10H6Br2
reactant | 3-(methoxycarbonyl)phenylboronic acid | 17.48 mmol, 3.15 g | COC(=O)C=1C=C(C=CC1)B(O)O | C8H9BO4
reactant | CsF | 4.00 g | [F-].[Cs+]
catalyst | Pd(PPh3)4 | 200 mg | C=1C=CC(=CC1)[P](C=2C=CC=CC2)(C=3C=CC=CC3)[Pd]([P](C=4C=CC=CC4)(C=5C=CC=CC5)C=6C=CC=CC6)([P](C=7C=CC=CC7)(C=8C=CC=CC8)C=9C=CC=CC9)[P](C=1C=CC=CC1)(C=1C=CC=CC1)C=1C=CC=CC1
product | Dimethyl 3,3′-(naphthalene-2,7-diyl)dibenzoate | yield of 72% | C1=C(C=CC2=CC=C(C=C12)C=1C=C(C(=O)OC)C=CC1)C=1C=C(C(=O)OC)C=CC1 | C26H20O4
